US07531506B2
Fmoc-Ser(tBu)-OTce was dissolved in TFA-H2O (19:1, 10 mL) and allowed to stir for 5 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography (EtOAc-Hexane, 3:7) to give Fmoc-Ser-OTce (0.83 g, 1.8 mmol, 69% overall yield for the two steps).

reactant | Fmoc-Ser(tBu)-OTce | N([C@@H](COC(C)(C)C)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H26Cl3NO5
solvent | TFA H2O | 10 mL | C(=O)(C(F)(F)F)O.O
product | Fmoc-Ser-OTce | N([C@@H](CO)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H18Cl3NO5
